US04598085
A mixture of 5.2 parts of α-(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-ethanol, 50 parts of dimethyl sulfoxide and 45 parts of benzene is stirred till all solid enters solution. Then there is added 1 part of a sodium hydride dispersion 78% and stirring is continued till gasevolution has ceased. After stirring for one hour at 40°-50° C., there are added 2.3 parts of 3-chloro-1-propyne. The whole is stirred overnight at room temperature. The reaction mixture is poured onto ice-water and the product is extracted with 1,1'-oxybisethane. The extract is washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. Upon standing overnight at room temperature, the residue solidifies. The product is filtered off and crystallized from 2,2'-oxybispropane, yielding 2 parts (33.8%) of 1-[2-(2,4-dichlorophenyl)-2-(2 -propynyloxy)ethyl]-1H-1,2,4-triazole; mp. 84° C.

reactant | α-(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-ethanol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)O | C10H9Cl2N3O
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-1-propyne | ClCC#C | C3H3Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[2-(2,4-dichlorophenyl)-2-(2 -propynyloxy)ethyl]-1H-1,2,4-triazole | 33.8% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)OCC#C | C13H11Cl2N3O
